US06969716B2
To a mixture of 5-(3-bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine (0.2 g, 0.67 mmol), cuprous 3-methylsalicylate (0.315 g, 1.5 mmol), 2-(tri-n-butylstannyl)pyridine (0.736 g, 2.2 mmol) and lithium chloride (0.085 g, 2.0 mmol) in dry 1,4-dioxane (8 ml) was added tetrakis(triphenylphosphine)palladium(0) (0.077 g, 0.032 mmol) and the mixture heated at 60° C. Fog 24 h. The reaction was allowed to cool to ambient temperature, diluted with DCM (20 ml) and washed with 10% ammonia solution (10 ml). The organic layer was washed with water (40 ml) and the combined organics dried over Mg2SO4, filtered and the solvent removed at reduced pressure. The crude product was purified by preparative thin-layer chromatography on silica gel, eluent 3% methanol in dichloromethane. The solid obtained was triturated with diethyl ether to give 5-[4-fluoro-3-(pyridin-2-yl)phenyl]-3-(pyridin-2-yl)-[1,2,4]triazine as a powdery orange solid (35 mg): δH (400 MHz, CDCl3) 7.39-7.48 (3H, m), 7.51 (1H, m), 7.81-8.00 (3H, m), 8.47 (1H, m), 8.71 (1H, m), 8.80 (1H, m), 8.93 (1H, m), 9.81 (1H, s); m/z (ES+) 330 (M++H).

reactant | 5-(3-bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine | 0.67 mmol, 0.2 g | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)SC | C10H7BrFN3S
reactant | 2-(tri-n-butylstannyl)pyridine | 2.2 mmol, 0.736 g | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
reactant | lithium chloride | 2.0 mmol, 0.085 g | [Cl-].[Li+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.032 mmol, 0.077 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-fluoro-3-(pyridin-2-yl)phenyl]-3-(pyridin-2-yl)-[1,2,4]triazine | 35 mg | FC1=C(C=C(C=C1)C=1N=C(N=NC1)C1=NC=CC=C1)C1=NC=CC=C1 | C19H12FN5
